US05214197
To a solution of tert.-butyl 4-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)-3-hydroxybutanoate (5.49 g, 20.0 mmol) in toluene (40.0 ml), sodium methoxide (1M in methanol) (30 ml) was added at 0° C. in an argon atmosphere and stirred at 0° C. for 30 minutes. After dropwise adding 1N hydrochloric acid (30.5 ml) at 0° C. over 10 minutes, the mixture was stirred at 0° C. for 10 minutes. After evaporating off the most of the organic solvent under reduced pressure, the residual mixture was extracted with ethyl acetate. The organic layer was washed with a saturated saline and a phosphate buffer (pH 7.0). The organic layers were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:acetone=2:1) to give pure 1-methyl 6-tert.-butyl 2,4-dihydroxyadipate (3.69 g, 14.9 mmol). Yield, 74.3 %.

reactant | tert.-butyl 4-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)-3-hydroxybutanoate | 20.0 mmol, 5.49 g | CC1(OC(C(O1)CC(CC(=O)OC(C)(C)C)O)=O)C | C13H22O6
reactant | hydrochloric acid | 1N, 30.5 ml | Cl | ClH
solvent | toluene | 40.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium methoxide | 1M, 30 ml | C[O-].[Na+]
product | 1-methyl 6-tert.-butyl 2,4-dihydroxyadipate | 14.9 mmol, 3.69 g | OC(C(=O)OC)CC(CC(=O)OC(C)(C)C)O | C11H20O6
